US09233946B2
N-[3-(1H-Tetrazol-5-yl)phenyl]biphenyl-4-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting from biphenyl-4-sulfonyl chloride (14 mg, 0.055 mmol) and [3-(1H-tetrazol-5-yl)phenyl]amine (8 mg, 0.05 mmol) giving 11 mg (60%) of the title product. MS (ESI+) calcd for C19H15N5O2S 377.094645, found 377.094375.

reactant | biphenyl-4-sulfonyl chloride | 0.055 mmol, 14 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
reactant | [3-(1H-tetrazol-5-yl)phenyl]amine | 0.05 mmol, 8 mg | N1N=NN=C1C=1C=C(C=CC1)N | C7H7N5
product | N-[3-(1H-Tetrazol-5-yl)phenyl]biphenyl-4-sulfonamide | 11 mg, 60% | N1N=NN=C1C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C19H15N5O2S
